Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
postmenopausal bleeding 
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral oophorectomy, left 
salpingectomy, pelvic and periaortic node dissection and 
cystoscopy

 
History of Present Illness:
___ who reports postmenopausal spotting.  She was seen 
on ___.  She was sent for a pelvic ultrasound which 
was performed the same day. 
This showed a retroverted uterus measuring 5 x 2.3 x 3.1 cm.  
There was a 1.5 x 1.1 x 1.3 structure at the fundal aspect of 
the endometrium which demonstrated internal arterial flow.   The 
endometrial cavity contained fluid and overall measured 8 mm.  
The ovaries were felt to be normal and there is no free fluid. 

On ___, she underwent a hysteroscopy, D&C, and biopsy of 
a polypoid lesion arising from the uterine fundus.  Final 
pathology notable for a grade ___ endometrioid adenocarcinoma.  
The final report is pending review from GYN pathology.  

The patient was referred to GYN oncology for further evaluation 
and treatment recommendations.  

The patient was counseled regarding a diagnosis of grade 1 
endometrioid adenocarcinoma. Surgical evaluation including a 
total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, and possible lymph node dissection was 
recommended. The risk and benefits of the procedure were 
reviewed. Consents were signed. The patient is presenting for 
this scheduled procedure. 

 
Past Medical History:
Health Maintenance:
- Mammogram: ___
- Colonoscopy: ___
- Bone Mineral Density: N/A

Past Medical History:
- adrenal adenoma
- basal cell carcinoma
- influenza vaccine allergy
- low back pain 

Past Surgical History: 
- Bunionectomy ___
- Cesarean section ___
- Ectopic pregnancy with possible RSO ___
                                    
Past OB History:
- G2 ___
- Ectopic pregnancy
- C-section for twins, ___

Past GYN History:
- Menopause in ___.  Unremarkable and no HRT
- Was told she had stage IV endometriosis with dense adhesions 
at
the time of a laparoscopy for an ectopic pregnancy.  She 
believes
her right ovary was also removed at that time. (___)
 
Social History:
___
Family History:
Family History: Denies family history of GYN cancer, breast 
cancer, colon cancer        
 
Physical Exam:
Pre-operative physical exam:

GENERAL:  No acute distress, well developed, well nourished,
appears younger than stated age.
HEENT: NC/AT, sclera anicteric
SKIN:  Warm and dry.
NEUROLOGIC:  Alert and oriented x 4.
BACK: No spinal or cva tenderness.
ABDOMEN:  Soft, nontender, nondistended, without palpable masses
or hernia.
EXTREMITIES:  Nontender, no edema bilaterally.
PELVIC:  
-External female genitalia: normal
-Vagina: no lesions
-Cervix: no lesions, not expanded
-Uterus: not enlarged, nontender
-Adnexa: no palpable masses
RECTAL:  deferred

On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Pertinent Results:
___ 07:40AM BLOOD WBC-5.9 RBC-4.55 Hgb-13.5 Hct-38.9 MCV-86 
MCH-29.7 MCHC-34.7 RDW-12.2 RDWSD-38.3 Plt ___
___ 07:40AM BLOOD Plt ___
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
oophorectomy, left salpingectomy, and periaortic node 
dissection, cystoscopy for endometrial carcinoma. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV Dilaudid and IV 
Toradol. Her diet was advanced without difficulty and she was 
transitioned to oxycodone, acetaminophen, ibuprofen. On 
post-operative day #1, her urine output was adequate so her 
foley catheter was removed and she voided spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
- Fluticasone 50 µg/actuation nasal spray suspension
- Lidocaine 5% topical patch
- Lorazepam 0.5 mg
- Melatonin
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not exceed 4g in 24hrs 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*30 Tablet Refills:*2 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
Take this medication while on narcotics 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take this medication with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*45 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drive or operate heavy machinery while on this medication 

RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*45 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks 
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___